Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Sciatic pain
 
Major Surgical or Invasive Procedure:
Liver biopsy
Bone biopsy

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman who is sent in for 
emergent neurological evaluation following a CT scan obtained 
for sciatica as an outpatient yesterday. 

His initial symptoms started with pain along his right lateral 
thigh. His PCP determined this to be musculoskeletal in etiology 
and his symptoms resolved with conservative treatment. He then 
developed worsening sciatic pain on the left. He underwent CT 
scan as an outpatient and received a call from his PCP to go to 
the ED as the CT scan reportedly showed evidence of tumors 
compressing his ___.   
 
In the ED, initial vitals were: 97.2 HR 87 BP 176/108 RR 18 96% 
RA
Labs were notable for WBC 11.2, otherwise unremarkable CBC. 
Chemistry panel WNL. UA bland.

Examination in the ED notable for intact motor function, intact 
sensory function and intact coordination, stable gait and intact 
rectal tone. He has been constipated for the past two days but 
denies incontinence or saddle anesthesia. He endorsed tingling 
in a distribution over his left lateral foot and pain in his 
left calf shooting in nature.

Given concerning findings on CT scan and with new tingling and 
pain in his left lower extremity in the context of worsening 
back pain code cord was activated. 

Imaging: MR ___ with innumerable hyperintense lesions 
throughout the ___ concerning for metastases. 10.5cm complex 
large left kidney mass, incompletely evaluated. Dedicated CT or 
MRI of the abdomen recommended for further evaluation. No 
evidence of cord compression. 

He was seen by the ___ service who advised that there is no 
emergent or urgent neurosurgical intervention indicated at this 
time. No brace needed, no activity restrictions. Recommended 
med/onc admission for primary workup as he has no known primary. 
No steroids indicated at this time. 

He received: 
___ 12:46 IV Morphine Sulfate 2 mg 
___ 12:46 IV Lorazepam .5 mg  
___ 13:03 IV Morphine Sulfate 2 mg 
___ 13:30 IV HYDROmorphone (Dilaudid) 1 mg  
___ 13:48 IV Lorazepam 1 mg  
___ 15:27 IV HYDROmorphone (Dilaudid) 1 mg 
 
On the floor, he appears uncomfortable due to sciatic pain. 
He denies headache, vision changes, chest pain, dyspnea, cough, 
abdominal pain, nausea, vomiting, diarrhea, hematuria, 
melena/hematochezia. He has not had a bowel movement in 2 days, 
but denies incontinence.   
 

 
Past Medical History:
Asthma
 
Social History:
___
Family History:
Mother (___) hx of breast cancer, lung cancer.
Father (___) no cancer
 
Physical Exam:
Vital Signs: 98.4 PO 150 / 94 82 18 96 RA   
General: Alert, oriented, uncomfortable appearing due to pain
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
MSK: No cervical, thoracic, lumbar spinous process tenderness to 
palpation 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally. Gait slowed 
due to pain. Refusing rectal exam as he had it in the ED.

Exam on discharge:
98.5  157/83 HR:76 R:16 94 RA 
General: Alert, oriented, uncomfortable appearing due to pain
HEENT: Sclerae anicteric, MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation
 
Pertinent Results:
___ 12:30PM BLOOD WBC-11.2* RBC-4.70 Hgb-14.6 Hct-44.6 
MCV-95 MCH-31.1 MCHC-32.7 RDW-12.3 RDWSD-43.2 Plt ___
___ 12:30PM BLOOD Neuts-76.1* Lymphs-15.8* Monos-5.9 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-8.51* AbsLymp-1.76 
AbsMono-0.66 AbsEos-0.14 AbsBaso-0.04
___ 12:30PM BLOOD ___ PTT-34.6 ___
___ 12:30PM BLOOD Glucose-104* UreaN-16 Creat-0.9 Na-138 
K-4.3 Cl-100 HCO3-24 AnGap-18
___ 12:30PM BLOOD Calcium-10.3 Phos-2.7 Mg-2.0

IMAGING & STUDIES: 
___ MR CTL ___
1. Innumerable punctate STIR hyperintense lesions are seen 
throughout the ___, with enhancement concerning for metastatic 
foci of disease.  A dominant 4.4 cm lesion is seen within the S2 
body of the sacrum causing expansion of the bone with a soft 
tissue component extending anteriorly into the presacral space.  
Again, this is concerning for a malignant lesion. 
2. 1.9 x 2.1 cm neoplastic lesion within the posterior aspect of 
the L5 vertebral body is seen, with a soft tissue component 
extending posteriorly resulting in mild canal narrowing. 
3. No underlying cord signal abnormalities are identified. 
4. 10.5 cm complex large left kidney mass, is incompletely 
evaluated on this exam.  A dedicated CT or MRI of the abdomen is 
recommended for further evaluation. 
5. No cord compression. 
  
RECOMMENDATION(S):  Oncologic workup is recommended, including 
CT or MRI of the abdomen for evaluation of a large left kidney 
mass. 

CXR ___: No acute cardiopulmonary process.

CT Chest ___
IMPRESSION: 
1. No evidence of pulmonary parenchymal metastatic disease or 
thoracic 
lymphadenopathy. 
2. Known suspicious ___ lesions are better evaluated by recent 
MRI. 
3. Please see separately submitted Abdomen and Pelvis CT report 
for 
subdiaphragmatic findings. 

CT Abdomen/Pelvis ___
IMPRESSION: 
1. Innumerable indeterminate renal lesions bilaterally, 
particularly in the left kidney, for which dedicated renal MRI 
with and without contrast is recommended. 
2. Indistinct hepatic hypodensities concerning for metastatic 
disease. 
3. Lytic lesions concerning for osseous metastatic disease, 
largest in L5 and S2, better evaluated by recent MR ___. 
4. Extensive diverticulosis. 
5. Please see the separately submitted report of the same day CT 
Chest for 
findings above the diaphragm. 

Liver Ultrasound ___
IMPRESSION:  
Lesion in the right hepatic lobe of the liver is amenable to 
ultrasound-guided biopsy. 

 
Brief Hospital Course:
___ y/o M with PMHx of asthma as well as prior kidney cyst, with 
1 month of worsening L sciatica pain, who presents with imaging 
showing number lesions in the ___ concerning for metastatic 
disease of unknown primary, as well as kidney and liver lesions.

# Metastatic disease of unknown primary / Back pain: MRI showing 
numerous spinal lesions concerning for metastatic disease. Seen 
by ___ in the ED. No indication for urgent surgery, and no 
evidence of cord compression. Per ___ service, no brace or 
activity restrictions needed. No steroids indicated at this 
time. CT torso showing spinal disease as well as numerous renal 
lesions and liver lesions. Treated with standing Tylenol, 
ibuprofen, gabapentin, as well as PRN oxycodone and IV dialudid 
for pain control. Underwent liver biopsy which revealed normal 
tissues (raising concern that radiology might have missed area 
of interest), so he subsequently underwent bone biopsy on 
___ that showed carcinoma. Final staining is pending on 
discharge. The patient was seen by oncology and they will 
arrange outpatient follow up for the patient with appropriate 
oncologist. The patient's pain was ultimately controlled on a 
regimen of dilaudid, gabapentin, Tylenol and ibuprofen. He was 
counseled on the risks of narcotics including but not limited to 
respiratory suppression, addiction, constipation. PMP was 
checked. The patient's PCP is aware of diagnosis and plan.

# Constipation: Developed constipation while hospitalized which 
improved with bowel regimen.

# Asthma: Continued albuterol PRN

Transitional issues:
- Final biopsy report pending. Patient will be contacted with 
oncology follow up appointment
Full code. HCP wife ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea 
2. OxyCODONE--Acetaminophen (5mg-325mg) Dose is Unknown  PO 
Frequency is Unknown 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Gabapentin 800 mg PO TID 
RX *gabapentin 400 mg 2 capsule(s) by mouth three times a day 
Disp #*180 Capsule Refills:*0 
5.  HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 4 mg 1 tablet(s) by mouth Q4hrs as needed for 
pain Disp #*42 Tablet Refills:*0 
6.  Ibuprofen 400 mg PO Q6H  
7.  Lactulose 30 mL PO BID:PRN constipation 
RX *lactulose 10 gram/15 mL 30 mL by mouth twice daily as needed 
for constipation Refills:*0 
8.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % 1 patch apply transdermally Daily Disp #*15 
Patch Refills:*0 
9.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [___] 17 gram/dose 17 gm by 
mouth daily as needed for constipaton Refills:*0 
10.  Senna 8.6 mg PO BID constipation  
11.  Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic malignancy
Bone metastases
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you during your recent 
admission to ___. You were sent to the hospital after a CAT 
scan showed concerning lesions in your ___. You underwent 
further imaging which also showed lesions in your liver and 
kidneys. You underwent a liver biopsy which was inconclusive, so 
you had a bone biopsy that showed cancer cells. Additional 
staining to tell us what type of cancer are still pending. You 
will be contacted with a follow up appointment to discuss the 
results once they have been finalized. You will be discharged on 
pain medication. You should take this medication as prescribed. 
Do not drive and take this medication. Continue to take the 
laxatives to make sure that you do not develop constipation. 
If you develop weakness, urinary retention or incontinence, 
worsening pain or numbness please call your primary care doctor 
or return to the hospital.
 
Followup Instructions:
___